US04096142
A mixture of 20 mg of 3β ,19-diacetoxy-14β-hydroxy-17β-pivaloxy-5α-androst-7-ene and 1.0 ml of 0.2 N methanolic potassium hydroxide was heated under nitrogen at 70° C. for 20 hours whereupon a solution of 0.2 N acetic acid in ethyl acetate was added and the mixture was evaporated. The residue obtained was treated with water and the mixture was then extracted with ethyl acetate. Evaporation of the ethyl acetate solution gave 3β ,14β ,17β ,19-tetrahydroxy-5α-androst-7-ene as indicated by tlc analysis.

reactant | 3β ,19-diacetoxy-14β-hydroxy-17β-pivaloxy-5α-androst-7-ene | 20 mg | C(C)(=O)O[C@@H]1C[C@@H]2CC=C3[C@]4(CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)COC(C)=O)OC(C(C)(C)C)=O)O | C28H42O7
reactant | potassium hydroxide | 0.2 N, 1.0 ml | [OH-].[K+]
reactant | acetic acid | 0.2 N | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3β ,14β ,17β ,19-tetrahydroxy-5α-androst-7-ene | O[C@@H]1C[C@@H]2CC=C3[C@]4(CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)CO)O)O | C19H30O4
